US04028344
Preparation of 1-t-Butylazo-1-(methoxycarbonylamino)cyclohexane
To 30 ml of methanol in a 100 ml 3 neck round bottom flask equipped with a thermometer and magnetic stirrer was slowly added 2.1 grams (0.05 moles) of 57% sodium hydride. After the temperature came back to 25° C., 10.5 grams (0.05 moles) of 1-t-butylazo-1-isocyanatocyclohexane was added dropwise over 5 minutes. There was a 2° C. rise in temperature during the addition. After the addition was complete, the reaction was stirred an additional 30 minutes at room temperature. Gas chromatography indicated that the 1-t-butylazo-1-isocyanatocyclohexane had reacted almost immediately. The reaction mixture was poured into 300 ml water and the product extracted with 100 ml methylene chloride. The methylene chloride extract was separated, washed with water, 100 ml 10% NaHCO3 solution, dried over anhydrous Na2SO4, filtered and the methylene chloride evaporated under reduced pressure to leave 11.0 grams (91% crude yield) of a yellow liquid. The product had a strong carbonyl band at 1730 cm-1 and a sharp NH band at 3400 cm-1 in its infrared spectrum and the isocyanate band at 2225 cm-1 was absent.

reactant | methanol | 30 ml | CO | CH4O
reactant | sodium hydride | 0.05 moles, 2.1 grams | [H-].[Na+]
reactant | 1-t-butylazo-1-isocyanatocyclohexane | 0.05 moles, 10.5 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=O | C11H19N3O
reactant | isocyanate | [N-]=C=O
solvent | water | 300 ml | O | H2O
product | 1-t-Butylazo-1-(methoxycarbonylamino)cyclohexane | C(C)(C)(C)N=NC1(CCCCC1)NC(=O)OC | C12H23N3O2
